US08309580B2
(4) cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methanol
An operation similar to that in Example 3 (2) was performed using 5-(2,4-difluorophenyl)-2-methyl-3-furaldehyde (2.4 g) and 1N cyclohexylmagnesium bromide-tetrahydrofuran solution (16.5 mL) to give the title compound (2.6 g, 76%) as a white crystal.

reactant | 5-(2,4-difluorophenyl)-2-methyl-3-furaldehyde | 2.4 g | FC1=C(C=CC(=C1)F)C1=CC(=C(O1)C)C=O | C12H8F2O2
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1N, 16.5 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
product | cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methanol | 2.6 g, 76% | C1(CCCCC1)C(O)C1=C(OC(=C1)C1=C(C=C(C=C1)F)F)C | C18H20F2O2
